Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
difficulty swallowing, diagnosed as achalasia type II
 
Major Surgical or Invasive Procedure:
___: laparoscopic ___ myotomy with partial 
fundoplication

 
History of Present Illness:
Ms. ___ is a ___ who presents with a ___ year history of 
difficulty swallowing, regurgitation, and vomiting refractory to 
esophageal dilation x2.  She first noticed difficulty swallowing 
solid foods in ___. She would feel as if food got 
stuck in her throat. In the process, she has lost 14 pounds. 
Over time, her symptoms have worsened. Currently, she has 
difficulty with liquids. She has to take sips, and often would 
not get up at night to drink water despite being thirsty because 
it would take too long.  These symptoms have interfered with her 
health in other ways. At one point prior to nutritional 
supplementation, she developed
anemia. She also is unable to swallow her simvastatin or 
omeprazole. Socially, she is unable to eat meals with friends 
because she feels embarrassed. A 20 minute recess at school is
insufficient for her to finish even half a banana. She has had 
two esophageal dilations, once last year, and once last week 
when she presented to the ED after having an episode of vomiting 
up food that was stuck. The dilations helped her symptoms for 
only two days, after which her symptoms would return.
 
Past Medical History:
epigastric pain, GERD, hypercholesterolemia, dysphagia ,anemia, 
H pylori
 
Social History:
___
Family History:
mother: ___ disease
brother, sister, father: hypercholesterolemia
 
Physical ___:
VS: stable and within normal limits
NAD
RRR No M/R/G
CTAB/L
abd soft NT ND incisions C/D/I
 
Pertinent Results:
___ 05:20AM BLOOD WBC-9.3# RBC-3.62* Hgb-11.1* Hct-33.1* 
MCV-91 MCH-30.7 MCHC-33.5 RDW-12.7 RDWSD-42.8 Plt ___
___ 05:20AM BLOOD Glucose-140* UreaN-12 Creat-0.7 Na-138 
K-4.1 Cl-100 HCO3-27 AnGap-15
 
Brief Hospital Course:
The patient presented on ___ for laparoscopic ___ 
myotomy to treat her achalasia.  The procedure was performed 
without incident.  After a brief stay in the PACU, the patient 
was admitted to the floor.  She had a nasogastric tube in place 
and was not given a diet.  Intravenous fluids were administered, 
and her pain was controlled with intravenous acetaminophen and 
dilaudid.

On post-operative day #1, the patient was advanced to a regular 
diet without bread and her nasogastric tube was removed.  She 
was switched to maintenance intravenous fluids and her pain was 
controlled with oral medication.  During the day, the patient 
did not take in much food or liquid by mouth, as she said she 
was afraid to swallow.  She was able to swallow successfully but 
still maintained her fear.  Because of the low amount she took 
in by mouth, she was not discharged as planned.

On post-operative day #2, the patient took in sufficient amounts 
by mouth and was discharged to home with an appointment to 
follow up in clinic with Dr. ___.
 
Medications on Admission:
Omeprazole 40 mg PO BID  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO DAILY:PRN constipation 
Hold for loose stool/diarrhea.  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Do not drive, operate heavy machinery, or make legal decisions 
while on this med. 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hrs Disp #*30 Tablet 
Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
Hold for loose stool/diarrhea.  
5.  Omeprazole 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
achalasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
a laparoscopic ___ myotomy and partial fundoplication to 
treat your achalasia. You underwent this procedure on ___. 
You have recovered and are now ready to be discharged to home. 
Please follow the recommendations below to ensure a speedy and 
uneventful recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- You may start some light exercise when you feel comfortable.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during the procedure.

YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
-You may resume a regular diet, but do not have bread.
PAIN MANAGEMENT:
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

WOUND CARE:
-You may shower with any bandage strips and gauze/tegaderm hat 
may be covering your wound. Do not scrub and do not soak; pat 
dry. The strips will peel off by themselves. You may take off 
the gauze/tegaderm 2 days after the surgery. 
-Notify your surgeon if you notice excess or abnormal 
(foul-smelling, bloody, pus, etc.)drainage from your incision 
site.
 
Followup Instructions:
___